US08530493B2
A mixture of (+/−)-2-amino-3-(5-ethoxy-1H-indol-3-yl)-2-methyl-propionic acid methyl ester (829 mg, 3 mmol), 3-hydroxybenzaldehyde (439 mg, 3.6 mmol) and trifluoroacetic acid (223 μl, 3 mmol) in dry dichloromethane (40 ml) is stirred for 6 h under argon. Methanol (2 ml) is added to dissolve the precipitated product and the mixture is diluted with dichloromethane (150 ml). It is washed with saturated aqueous NaHCO3 (2×50 ml) and water (2×50 ml), is dried, and the solvent is removed under reduced pressure. The residue is purified by column chromatography (dichloromethane-ethyl acetate, 7:1→4:1) to provide (1RS,3SR)-1-(3-hydroxy-phenyl)-6-ethoxy-3-methyl-2,3,4,9-tetrahydro-1H-beta-carboline-3-carboxylic acid methyl ester (1.05 g, 93%). M.p. 173-175° C. (from ethyl acetate-hexane).

reactant | (+/−)-2-amino-3-(5-ethoxy-1H-indol-3-yl)-2-methyl-propionic acid methyl ester | 3 mmol, 829 mg | COC(C(CC1=CNC2=CC=C(C=C12)OCC)(C)N)=O | C15H20N2O3
reactant | 3-hydroxybenzaldehyde | 3.6 mmol, 439 mg | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | trifluoroacetic acid | 3 mmol, 223 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | Methanol | 2 ml | CO | CH4O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | (1RS,3SR)-1-(3-hydroxy-phenyl)-6-ethoxy-3-methyl-2,3,4,9-tetrahydro-1H-beta-carboline-3-carboxylic acid methyl ester | 1.05 g, 93% | COC(=O)C1(NC(C=2NC3=CC=C(C=C3C2C1)OCC)C1=CC(=CC=C1)O)C | C22H24N2O4
